### PR TITLE
[Merged by Bors] - chore: move a few results from `Archive.Hairer` into mathlib

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

I don't have strong feelings on where they should go, but they didn't seem specific to the proof in `Archive.Hairer`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Polynomial.lean [hunk 1]
```diff
@@ -74,4 +74,8 @@ theorem AnalyticOn.eval_linearMap' (f : σ → E →ₗ[𝕜] B) (p : MvPolynomi
 theorem AnalyticOn.eval_mvPolynomial [Fintype σ] (p : MvPolynomial σ 𝕜) :
     AnalyticOn 𝕜 (eval · p) Set.univ := AnalyticOn.eval_linearMap (.id (R := 𝕜) (M := σ → 𝕜)) p
 
+theorem MvPolynomial.continuous_eval (p : MvPolynomial ι ℝ) :
+    Continuous fun x ↦ (eval x) p := by
+  continuity
```
Comment (alreadydone) [inline Mathlib/Analysis/Analytic/Polynomial.lean:79]: This holds for any [TopologicalSemiring](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Ring/Basic.html#TopologicalSemiring) in place of ℝ using [MvPolynomial.induction_on](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/MvPolynomial/Basic.html#MvPolynomial.induction_on)

Also, there's already a σ around, so I think you don't need to add ι to the `variable`.

File: Mathlib/RingTheory/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -148,6 +149,19 @@ theorem linearIndependent_X : LinearIndependent R (X : σ → MvPolynomial σ R)
 set_option linter.uppercaseLean3 false in
 #align mv_polynomial.linear_independent_X MvPolynomial.linearIndependent_X
 
+instance {R σ : Type*} [CommSemiring R] [Finite σ] (N : ℕ) :
+    Module.Finite R (restrictTotalDegree σ R N) :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/MvPolynomial/Basic.lean:153]: Can you add `Module.Finite R (restrictDegree σ R N)` too? It's the same proof but without the `have : Finite {s : σ →₀ ℕ | s.sum (fun _ e ↦ e) ≤ N}` part.

**Review by alreadydone — COMMENTED** [review]
LGTM otherwise

File: Mathlib/Analysis/Analytic/Polynomial.lean [hunk 3]
```diff
@@ -74,4 +74,10 @@ theorem AnalyticOn.eval_linearMap' (f : σ → E →ₗ[𝕜] B) (p : MvPolynomi
 theorem AnalyticOn.eval_mvPolynomial [Fintype σ] (p : MvPolynomial σ 𝕜) :
     AnalyticOn 𝕜 (eval · p) Set.univ := AnalyticOn.eval_linearMap (.id (R := 𝕜) (M := σ → 𝕜)) p
 
+theorem MvPolynomial.continuous_eval
+    {X : Type*} [TopologicalSpace X] [CommSemiring X] [TopologicalSemiring X]
+    (p : MvPolynomial σ X) :
+    Continuous fun x ↦ (eval x) p := by
+  continuity
```
Comment (alreadydone) [inline Mathlib/Analysis/Analytic/Polynomial.lean:81]: #find_home suggests [Mathlib.Topology.Algebra.Module.Determinant] and I'm not sure whether there's better place ...

File: Mathlib/RingTheory/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -148,6 +149,21 @@ theorem linearIndependent_X : LinearIndependent R (X : σ → MvPolynomial σ R)
 set_option linter.uppercaseLean3 false in
 #align mv_polynomial.linear_independent_X MvPolynomial.linearIndependent_X
 
+instance {R σ : Type*} [CommSemiring R] [Finite σ] (N : ℕ) :
+    Module.Finite R (restrictDegree σ R N) :=
+  have := Finsupp.finite_setOf_bounded σ N
+  Module.Finite.of_basis (basisRestrictSupport R _)
+
+instance {R σ : Type*} [CommSemiring R] [Finite σ] (N : ℕ) :
+    Module.Finite R (restrictTotalDegree σ R N) :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/MvPolynomial/Basic.lean:158]: (untested) I think it's good to keep R and σ explicit in case you need to manually do `haveI`.
```suggestion
instance [Finite σ] (N : ℕ) : Module.Finite R (restrictDegree σ R N) :=
  have := Finsupp.finite_setOf_bounded σ N
  Module.Finite.of_basis (basisRestrictSupport R _)

instance [Finite σ] (N : ℕ) : Module.Finite R (restrictTotalDegree σ R N) :=
```

File: Mathlib/Analysis/Analytic/Polynomial.lean (hunk 3 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Analysis/Analytic/Polynomial.lean:81]: Yeah, I'm not sure that's better.

**Review by alreadydone — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Analysis/Analytic/Polynomial.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Analytic/Polynomial.lean:81]: A better home would be a new file `Topology/Algebra/MvPolynomial` with lemmas about `eval`, `eval₂` etc, see `Topology/Algebra/Polynomial`.

File: Mathlib/Data/Finsupp/Defs.lean [hunk 5]
```diff
@@ -1330,4 +1330,10 @@ theorem update_eq_sub_add_single [AddGroup G] (f : α →₀ G) (a : α) (b : G)
   rw [update_eq_erase_add_single, erase_eq_sub_single]
 #align finsupp.update_eq_sub_add_single Finsupp.update_eq_sub_add_single
 
+variable (α) in
+theorem finite_setOf_bounded [Finite α] (N : ℕ) : Finite {n : α →₀ ℕ | ∀ (i : α), n i ≤ N} := by
```
Comment (urkud) [inline Mathlib/Data/Finsupp/Defs.lean:1334]: This is true for any upper bound `g : α → ℕ`, not necessary a constant. BTW, do we have a similar lemma about functions (or a generic `Set.pi univ` combinator)? If yes, then we can use `Set.Finite.preimage`.

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Defs.lean:1334]: This is basically docs#Set.Finite.pi combined with finiteness of intervals. I don't think we should even have it as a lemma. It can be inlined as `(Set.Finite.pi fun _ ↦ .finite_le_nat).preimage $ Funlike.coe_injective.injOn _` (untested)

Comment (alreadydone) [reply Mathlib/Data/Finsupp/Defs.lean:1334]: [Set.Finite.pi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Finite.html#Set.Finite.pi) would give you an extra `univ` as in `∀ i ∈ univ, n i ≤ N`, which can't be easily inlined as far as I know. Moreover this lemma is used to prove that `{s : σ →₀ ℕ | s.sum (fun _ e ↦ e) ≤ N}` is also finite, by virtue of being a subset.

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Defs.lean:1334]: This is all handled by the `preimage` step. This is where you get flexibility.

Comment (Ruben-VandeVelde) [reply Mathlib/Data/Finsupp/Defs.lean:1334]: > This is basically `Set.Finite.pi` combined with finiteness of intervals. I don't think we should even have it as a lemma. It can be inlined as `(Set.Finite.pi fun _ ↦ .finite_le_nat).preimage $ Funlike.coe_injective.injOn _` (untested)

I've tried to make your suggestion work, but by the time it compiled, it ended up worse than what I had in the first place. Feel free to push a better proof if you have one.

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Defs.lean]: Done

File: Mathlib/Topology/Algebra/MvPolynomial.lean [hunk 6]
```diff
@@ -0,0 +1,26 @@
...
+/-!
+# Multivariate polynomials and continuity
+
+In this file we prove the following lemma:
+
+* `MvPolynomial.continuous_eval`: `MvPolynomial.eval` is continuous
+
+## Tags
+
+MvPolynomial, continuity
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/MvPolynomial.lean:19]: The point of tags is to help discoverability, not to parrot what's already in the file
```suggestion
multi-variate polynomial, continuity
```

File: Mathlib/Data/Finsupp/Defs.lean [hunk 7]
```diff
@@ -1330,10 +1330,4 @@ theorem update_eq_sub_add_single [AddGroup G] (f : α →₀ G) (a : α) (b : G)
   rw [update_eq_erase_add_single, erase_eq_sub_single]
 #align finsupp.update_eq_sub_add_single Finsupp.update_eq_sub_add_single
 
-variable (α) in
-theorem finite_setOf_bounded [Finite α] (N : ℕ) : Finite {n : α →₀ ℕ | ∀ (i : α), n i ≤ N} := by
-  rw [equivFunOnFinite.subtypeEquivOfSubtype'.finite_iff, ← Set.coe_setOf, Set.finite_coe_iff]
-  convert Set.Finite.pi fun _ : α ↦ Set.finite_le_nat N using 1
-  ext; simp
```
Comment (alreadydone) [inline Mathlib/Data/Finsupp/Defs.lean]: Thanks for the golf! But I don't see the point of making it private and moving it.

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Defs.lean]: Well
* This lemma should not be made public, since it is a structural combination of existing lemmas
* I could inline it, but it would result in more lines

Conclusion: I should make it a private lemma where it is used so that I don't duplicate code and so that people don't find it when searching.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
